US08455488B2
Synthesis of 4-(4-chlorobenzyl)-1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxy-propan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-21)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 80 mg (0.30 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N-((S)-1,1-diethoxy-propan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide IV-2) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.30 mmol, 80 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-((S)-1,1-diethoxy-propan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C31H42N2O4
product | 4-(4-chlorobenzyl)-1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxy-propan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | ClC1=CC=C(CNC(NN(C)CC(=O)N[C@H](C(=O)N(CC2=CC=CC3=CC=CC=C23)[C@H](C(OCC)OCC)C)CC2=CC=C(C=C2)OC(C)(C)C)=O)C=C1 | C42H54ClN5O6
